US08791255B2
The product is prepared according to the procedure described in example 5, using 1 g of sodium [4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetate, 590 mg of 2-amino-6-nitrophenol, and 734 mg of N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride in a mixture of 5 ml of pyridine and 6 ml of N,N-dimethylformamide. 976 mg of N-(2-hydroxy-3-nitrophenyl)-2-[4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetamide are obtained in the form of a yellow solid, the characteristics of which are the following:

reactant | sodium [4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetate | 1 g | N1(CCOCC1)C=1N=C(NC(C1)=O)CC(=O)[O-].[Na+]
reactant | 2-amino-6-nitrophenol | 590 mg | NC1=C(C(=CC=C1)[N+](=O)[O-])O | C6H6N2O3
reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride | 734 mg | Cl.CN(CCCN=C=NCC)C
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
solvent | N,N-dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
product | N-(2-hydroxy-3-nitrophenyl)-2-[4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetamide | 976 mg | OC1=C(C=CC=C1[N+](=O)[O-])NC(CC=1NC(C=C(N1)N1CCOCC1)=O)=O | C16H17N5O6
